US09034900B2
Step 5: N-[4-(2,4-difluorophenoxy)-3-(2,6-dimethyl-7-oxofuro[2,3-c]pyridin-4-yl)phenyl]ethanesulfonamide
A mixture of 4-bromo-2,6-dimethylfuro[2,3-c]pyridin-7-one (200 mg, 0.83 mol), N-[4-(2,4-difluorophenoxy)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanesulfonamide (364 mg, 0.99 mmol), Pd(dppf)Cl2 (66 mg, 0.09 mmol), K3PO4 (527 mg, 2.49 mmol) in dioxane/water (4 mL/1 mL) was bubbled with argon for 5 min. The mixture was heated to 70° C. for 18 h. After cooling to rt, the reaction mixture was poured into water (10 mL) and extracted with EtOAc (40 mL×3). The combined organic layers were washed with brine (20 mL×2), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by prep-HPLC to afford the title compound (49 mg, 12%) as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ 7.35-7.33 (m, 2H) 7.12 (m, 1H) 6.95-6.89 (m, 2H) 6.81 (m, 2H) 6.43 (s, 1H) 6.38 (s, 1H) 3.71 (s, 3H) 3.16 (q, J=7.2 Hz, 2H) 2.47 (s, 3H) 1.43 (t, J=7.2 Hz, 3H). LCMS (M+H)+=475.

reactant | 4-bromo-2,6-dimethylfuro[2,3-c]pyridin-7-one | 0.83 mol, 200 mg | BrC=1C2=C(C(N(C1)C)=O)OC(=C2)C | C9H8BrNO2
reactant | N-[4-(2,4-difluorophenoxy)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanesulfonamide | 0.99 mmol, 364 mg | FC1=C(OC2=C(C=C(C=C2)NS(=O)(=O)CC)B2OC(C(O2)(C)C)(C)C)C=CC(=C1)F | C20H24BF2NO5S
reactant | K3PO4 | 2.49 mmol, 527 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane water | 4 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 0.09 mmol, 66 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[4-(2,4-difluorophenoxy)-3-(2,6-dimethyl-7-oxofuro[2,3-c]pyridin-4-yl)phenyl]ethanesulfonamide | 49 mg, 12% | FC1=C(OC2=C(C=C(C=C2)NS(=O)(=O)CC)C=2C3=C(C(N(C2)C)=O)OC(=C3)C)C=CC(=C1)F | C23H20F2N2O5S
